US05405861
Methyl (R)-(+)-lactate (25.0 g) was dissolved in dichloromethane (250 ml), to which was added, under ice-cooling, p-toluenesulfonic acid.hydrate (456 mg). To the mixture was then added dropwise 3,4-dihydro-2H-pyran (24.2 g) during 30 minutes, which was stirred for one hour under ice-cooling. To the reaction mixture was added a 5% aqueous solution of sodium hydrogen carbonate (50 ml), and the mixture was stirred vigorously, followed by separating the organic layer. The organic layer was further washed with a 5% aqueous solution of sodium hydrogen carbonate, which was dried over anhydrous magnesium sulfate, followed by distilling off the solvent under reduced pressure to leave methyl (2R)-2-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)propionate (42.7 g) as a pale yellow oily product.

reactant | Methyl (R)-(+)-lactate | 25.0 g | C([C@H](O)C)(=O)OC | C4H8O3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 3,4-dihydro-2H-pyran | 24.2 g | O1CCCC=C1 | C5H8O
reactant | sodium hydrogen carbonate | 50 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | methyl (2R)-2-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)propionate | 42.7 g | O1C(CCCC1)O[C@@H](C(=O)OC)C | C9H16O4
